Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
chlorhexidine
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
___ abscess drainage ___

 
History of Present Illness:
Mr. ___ is a ___ year old male with cholangiocarcinoma
complicated by recurrent cholangitis and e. coli bacteremia who
presents today with abdominal pain and fevers. 

The patient was recently hospitalized at ___ from 
___
with fevers and abdominal pain due to biliary obstruction. This
course was complicated by e. coli bacteremia in addition to 
acute
blood loss anemia during ERCP due to portobiliary fistula s/p
portal vein stenting by ___. Please see discharge summary for
further details.

The patient was discharged on ertapenem and was transitioned to
oral suppressive fosfomycin and delafloxacin on ___ after
completing his ertapenem course. 

The patient had been doing well until yesterday, when he noted
the sudden onset of RUQ abdominal pain while walking with his
brother.  This pain was exacerbated with movement and was
associated with a lack of appetite. The patient had no other
associated symptoms. Then today, the patient was able to eat in
the morning, but again lost his appetite around lunch time. His
abdominal pain persisted and his wife took his temperature which
was noted to be 100.3 at which point he came to the ED.

He has no headache or vision changes. No chest pain or dyspnea.
No vomiting but noted nausea. Stable, loose stool, without
hematochezia or melena. 

The patient states that this abdominal pain is very different
from prior episodes of cholangitis. 

 
Past Medical History:
Cholangiocarcinoma 
Biliary obstruction c/b cholangitis 
Rosacea
BPH
Migraines controlled on Atenolol
Arthritis of the knees and shoulder on the right
C.diff x3
Diabetes Mellitus diagnosed ___

CHOLANGIOCARCINOMA/BILIARY HISTORY:
- ___: weight loss of about 20 lbs over 3 weeks. One day of
gastric distention, nausea and this resolved.  
- ___: started to develop intermittent nausea as well as a
change in his bowel movements, which were previously normal once
a day, becoming several times a day with soft stools.  He states
that over the summer, he was more fatigued than usual with
burping.  He presented to his primary care physician at which
point he had laboratory testing, and was referred for an
ultrasound of his liver followed by a CT of his abdomen.  He was
seen by gastroenterologist, Dr. ___, at ___ and was referred to ___ for ERCP.  
- ___: Admitted for ERCP. During that period, his
initial bilirubin was 1.6, his alkaline phosphatase 395, his AST
was 181, ALT 251 and his CA ___ was 172.  His CEA was within
normal limits.  During this admission, he had any ERCP, which
showed ductal dilation bilaterally, left more than right and a
plastic stent was placed in the left hepatic duct.  He was
discharged on ___ and during his admission, his maximum
bilirubin was 6.4. 
- ___: repeat ERCP which continue to show bilateral right
and left hepatic lobe ductal dilation with marked migration of
the stent into the small intestine.  He had bilateral plastic
stents placed at that time point.  During his initial workup, he
has also undergone a CT of his chest, which showed one small 
lung
nodule of 3 mm in size and a MRCP of the abdomen, which 
indicated
this ductal dilation and a mass at the bifurcation of the right
anterior and left intrahepatic ducts worrisome for type IV
___ cholangiocarcinoma.  Cytology was suspicious 
for
carcinoma. 
- ___: repeat ERCP with exchange of plastic for metal stent. 


- ___: start of cisplatin/gemcitabine cycle ___ seen in ED for BPV 
- ___ cycle ___: hospitalized for right biliary obstruction. ERCP to
clear stent of sludge/stones with blood ctx + pan sensitivite
enteroccocus
- ___: cycle 3, last dose ___ and ___: hospitalized for GNR bacteremia and
cdiff and then again for delerium, discharged home
- ___: C4 D1 Gem/Cis. C4D15 held.
- ___ completed CK. radiation and resume C5D1 Gem/Cis. Day
15 held due to low counts and post-hospitalization. 
- ___: admitted for fever, cultures negative. Stents not
entirely patent on CT but fevers resolved, ? viral. 
- ___: start of C6 with dose reduced gemcitabine to 800mg/m2
- ___: start of C7 with dose reduced gemcitabine to 
750mg/m2.
Also received on ___.
- ___: received last dose, C8D1
- ___ and ___: hospitalized for biliary sepsis s/p perc
chole tube
- ___: hospitalized with biliary drain obstruction,
hemobilia s/p exchange of percutaneous biliary drain tubing,
disimpaction of percutaneous biliary drain by, interventional
radiology, ERCP, hepatic capsular artery embolization
- ___ admit for ecoli bacteremia with stone/sludge
removal and on IV meropenem X 10 days; ___ admit with 
fever
and PTBD replaced
-  admitted from ___ to ___, with
replacement of his percutaneous biliary drain on ___ 
due
to fever.  None of his blood cultures returned positive during
that admission.
- visited ED with fevers, chills abdominal pain on ___ and
___. 
- admitted ___ - ___ with cholangitis, hospitalization
complicated by hemobilia during ERCP interrogation of L CBD.
Treated with 7d meropenem. Blood cultures negative throughout
hospitalization. MRCP obtained ___ showed no new soft tissue
masses.
- admitted ___ - ___ with cholangitis, ERCP deferred
given prior hemobilia. In the absence of an obvious 
target for decompression, ___ was not consulted for consideration 


of biliary drain replacement. Blood and urine cultures were
negative. After discussion with the infectious disease team, the
decision was made to treat for acute cholangitis with a 10d
course of meropenem 500mg q6h (___), followed by 
initiation
of suppressive doxycycline 100mg DAILY (for VRE) and bactrim DS 
1
tab daily.
- admitted ___ with cholangitis and associated ESBL E coli 
bacteremia;  treated with ERCP ___ with clean out of his metal 
stents and 14d meropenem.
admitted ___ for fever, cholangitis treated w ertapenem
at discharge and then after that transitioned to delafloxacin.

 
Social History:
___
Family History:
Two grandparents with unknown cancers, otherwise no cancer 
history.

 
Physical Exam:
Admission Physical Exam:
========================
VITALS: ___ 2304 Temp: 100.5 PO BP: 127/71 HR: 76 RR: 18 O2
sat: 94% O2 delivery: Ra 
   
GENERAL:  Tired, NAD
HEENT: clear OP, moist membranes without oral lesions
EYES:  PERRL, anicteric
NECK:  supple
RESP:  CTAB, no wheezing, rhonchi or crackles
___:  RRR no MRG
GI:  +RUQ tenderness with palpation. No rebound or guarding. 
Soft
abomined with noted hepatomegally
EXT:  warm, no edema
SKIN:  dry no rashes
NEURO:  CN II-XII intact
ACCESS:  PIV

Discharge Physical Exam:
========================
24 HR Data (last updated ___ @ 805)
    Temp: 98.3 (Tm 98.8), BP: 120/68 (115-124/62-68), HR: 70
(70-80), RR: 18 (___), O2 sat: 96%% (95-97%), O2 delivery: RA  


GENERAL: NAD, A&Ox3, lying in bed comfortably 
EYES: Sclera clear, anicteric, PERRL
ENT:  MMM, no mucositis, ncat, EOMI
Neck: no JVD
CV: RRR, normal s1/s2, no MRG 
RESP: CTAB, no wheezes/crackles/rhonci. No accessory muscle 
usage
ABD: Bowel sounds normoactive, soft and ND, no HSM. Nontender
throughout. No guarding/rebound tenderness.
Ext: No clubbing/cyanosis. Pulses 2+ bilaterally. Normal 
strength
and ROM in all extremities. 
SKIN: No rashes/lesions. No jaundice. Warm. No evidence of skin
breakdown. 
NEURO: No gross or focal deficits 
PSYCH: Mood/affect appropriate. 
 
Pertinent Results:
Admission Labs:
===============
___ 06:30PM OTHER BODY FLUID  FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE
___ 06:46PM   ___ PTT-27.7 ___
___ 06:46PM   PLT COUNT-149*
___ 06:46PM   NEUTS-81.3* LYMPHS-8.8* MONOS-9.1 EOS-0.3* 
BASOS-0.1 IM ___ AbsNeut-7.32* AbsLymp-0.79* AbsMono-0.82* 
AbsEos-0.03* AbsBaso-0.01
___ 06:46PM   WBC-9.0 RBC-4.15* HGB-8.3* HCT-28.2* MCV-68* 
MCH-20.0* MCHC-29.4* RDW-18.5* RDWSD-43.9
___ 06:46PM   ALBUMIN-4.0 CALCIUM-8.6 PHOSPHATE-2.2* 
MAGNESIUM-1.9
___ 06:46PM   cTropnT-<0.01
___ 06:46PM   LIPASE-29
___ 06:46PM   ALT(SGPT)-67* AST(SGOT)-57* ALK PHOS-366* TOT 
BILI-0.7
___ 06:46PM   GLUCOSE-128* UREA N-9 CREAT-0.7 SODIUM-135 
POTASSIUM-4.1 CHLORIDE-99 TOTAL CO2-22 ANION GAP-14
___ 07:03PM   LACTATE-1.5

Pertinent Studies:
==================
CXR ___  
IMPRESSION:  
Low lung volumes with bibasilar atelectasis. 
 

CT Abd/pelvis ___
IMPRESSION: 
1. Rim enhancing 1 cm hypodense lesion in the right hepatic lobe 
has increased 
from the prior MRI and most likely an abscess.  Other previously 
noted rim 
enhancing lesions concerning for microabscesses seen on the 
previous MRI and 
CT are either similar or decreased in size/resolved on the 
current exam. 
2. 2 biliary stents and portal venous stent are in unchanged 
positions with 
similar pneumobilia. 
3. Previously noted arterially hyperenhancing region at the 
confluence of the 
hepatic ducts on prior MRI is not well seen on the current 
single phase CT 
exam. 
4. Small right pleural effusion and bibasilar atelectasis. 

LIVER OR GALLBLADDER US (SINGLE ORGAN) Study Date of ___ 
10:19 AM 
1. No drainable fluid collection. 
2. Likely partially occlusive thrombus adjacent to the stent in 
the main 
portal vein, which warrants attention on follow-up imaging. 
3. Stable splenomegaly. 
  
 CT ABDOMEN W/CONTRAST Study Date of ___ 6:06 ___ 
1. Nonocclusive thrombus extending from the upper end of the 
portal stent into 
the right posterior portal vein, confirming the ultrasound 
finding. 
2. Stable occlusion of the segment 5 portal vein.  Interval 
improvement of 
small liver abscesses. 

___ 9:01 am ABSCESS      Source: Hepatic abscess. 

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Preliminary): 
      ESCHERICHIA COLI.    RARE GROWTH. 
         Ceftolozane/tazobactam AND Fosfomycin Susceptibility 
testing
         requested by ___. ___ (___) ON ___. 
         CEFTAZIDIME/AVIBACTAM MIC = 0.5/4 MCG/ML = SUSCEPTIBLE, 
test
         result performed by Etest. 
         Fosfomycin = RESISTANT , test result performed by ___ 
___. 
         CAUTION -  Fosfomycin INTERPRETATION BASED ON URINARY 
BREAKPOINTS,
         THERE ARE NO INTERPRETIVE CRITERIA FOR NON-URINARY 
ISOLATES.. 
         Ceftolozane/tazobactam MIC = ___ MCG/ML = SUSCEPTIBLE, 
test result
         performed by Etest. 
         MEROPENEM , TETRACYCLINE , AND Tigecycline test result 
performed
         by Microscan.  Tigecycline MIC <=1 MCG/ML = 
SUSCEPTIBLE. 
         Tigecycline MIC interpretations are based on 
manufacturer's
         guidelines that are FDA approved. 
         This isolate does not demonstrate carbapenemase 
production; it is
         carbapenem resistant due to other mechanisms. Consider 
Infectious
         Disease Consultation..  DOXYCYCLINE = RESISTANT. 
         MINOCYCLINE = SUSCEPTIBLE. 
         DOXYCYCLINE AND MINOCYCLINE test result performed by 
___. 
         SENT TO ___ LAB FOR COLISTIN SUSCEPTIBILITY ___. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------  =>64 R
CEFEPIME--------------    16 R
CEFTAZIDIME-----------  =>64 R
CEFTRIAXONE-----------  =>64 R
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------   <=1 S
MEROPENEM-------------     2 I
PIPERACILLIN/TAZO----- =>128 R
TETRACYCLINE----------  =>16 R
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


Discharge Labs
===============

___ 06:00AM BLOOD WBC-2.1* RBC-3.71* Hgb-7.6* Hct-26.0* 
MCV-70* MCH-20.5* MCHC-29.2* RDW-20.5* RDWSD-51.1* Plt ___
___ 06:00AM BLOOD ___ PTT-84.6* ___
___ 06:00AM BLOOD Glucose-160* UreaN-6 Creat-0.6 Na-142 
K-4.4 Cl-104 HCO3-26 AnGap-12
___ 06:00AM BLOOD ALT-27 AST-20 AlkPhos-374* TotBili-0.3
___ 06:00AM BLOOD Albumin-3.5 Calcium-8.2* Phos-3.6 Mg-1.___ yo M pmhx cholangiocarcinoma c/b cholangitis and e coli 
bacteremia here with fevers and abd pain c/f recurrent 
cholangitis with MDR E Coli bacteremia, found to have portal 
venous thrombus

Transitional issues:
====================
-Follow-up: Heme/onc, ID, GI
-New medications: Ceftazidime/avibactam, metronidazole, 
ursodiol, apixaban.
-Held medications: Atenolol (BP and HR were normal during this 
hospitalization, consider restarting as an outpatient).
-Antibiotic course: He had MDR e.coli bacteremia after liver 
abscess drainage likely from biliary source. Unable to perform 
ERCP given risk of procedure. He will stay on 
ceftazidime/avibactam and metronidazole until either ___ = 4 
weeks or ___ = 6 weeks pending follow-up with infectious 
disease. 
-Portal vein thrombosis: New portal vein thrombosis, was 
enlarging on imaging. Possible nidus of infection. Started 
apixaban.
-Biliary sludge: Concern for another nidus of infection. ERCP 
too complex and high risk. Started on ursodiol.
-Iron deficiency anemia: consider iron repletion after infection 
is treated
-PICC: Please discontinue PICC line after finished with 
antibiotics
-Discharge labs: wbc 2.1, hgb 7.6, plt 111. Please recheck as an 
outpatient. Patient may also need iron infusions as he is iron 
deficient.
-Contact: ___ Wife Phone: ___ 
-Code status: Full

Active Issues:
==============
#Cholagnitis 
#MDR E coli bactermia
#Abdominal Pain 
Patinet has history of recurrent cholangitis and has known 
microabscesses. Presented with abdominal pain which is unlikely 
his prior presentations for cholangitis (normally presents with 
fevers/chills). Patient was taking delafloxacin and fosfomycin 
at home for suppression of chronic e coli bacteremia. He was 
transitioned to meropenem on admission. ERCP declined to take 
the patient given prior bleeding with ERCP. ___ aspirated the 
abscess and cultures were notable for MDR E coli. The patient 
was transitioned to ceftazadime/avibactam and flagyl.

#Portal venous thrombus
Portal venous thrombus was noted on US and CT A/P. The patient 
was started on heparin gtt and transitioned to apixaban.

#Microcytic Anemia 
#Iron deficiency anemia
H/h stable at his baseline throughout the hospitalization. 

#hypophoastemia 
Repleted throughout the hospitalization as needed

#Cholangiocarcinoma 
s/p chemorads in ___, follows with Dr. ___ who is currently
covered by Dr. ___ was informed of his admission. 

Chronic Issues:
===============
#BPH
Continue home tamsulosin and finasteride 

#HTN
On atenolol for BP and migraine prophylaxis, holding now given
c/f possible infection

#GERD 
Continue home pantoprazole

#Post Nasal Drip 
PRN histamine blockers 

This patient was prescribed, or continued on, an opioid pain 
medication at the time of discharge (please see the attached 
medication list for details). As part of our safe opioid 
prescribing process, all patients are provided with an opioid 
risks and treatment resource education sheet and encouraged to 
discuss this therapy with their outpatient providers to 
determine if opioid pain medication is still indicated.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Dronabinol 5 mg PO BID 
2. Finasteride 5 mg PO DAILY 
3. Fluticasone Propionate NASAL 2 SPRY NU BID 
4. Loratadine 10 mg PO DAILY 
5. Pantoprazole 40 mg PO Q24H 
6. Tamsulosin 0.4 mg PO QHS 
7. Atenolol 50 mg PO DAILY 
8. delafloxacin 450 mg oral BID 
9. Fosfomycin Tromethamine 3 g PO BID 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID  
2.  CefTAZidime-Avibactam (Avycaz) 2.5 g IV Q8H  
3.  MetroNIDAZOLE 500 mg PO Q8H 
RX *metronidazole 500 mg 1 tablet(s) by mouth every 8 hours Disp 
#*90 Tablet Refills:*0 
4.  Ursodiol 300 mg PO BID 
RX *ursodiol 300 mg 1 capsule(s) by mouth twice a day Disp #*60 
Capsule Refills:*0 
5.  Dronabinol 5 mg PO BID  
6.  Finasteride 5 mg PO DAILY  
7.  Fluticasone Propionate NASAL 2 SPRY NU BID  
8.  Loratadine 10 mg PO DAILY  
9.  Pantoprazole 40 mg PO Q24H  
10.  Tamsulosin 0.4 mg PO QHS  
11. HELD- Atenolol 50 mg PO DAILY  This medication was held. Do 
not restart Atenolol until your doctor says it is okay to 
restart

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
Primary Diagnosis:
==================
1) Cholangitis
2) Portal venous thrombus
3) Microcytic Anemia 
4) Cholangiocarcinoma 

Secondary Diagnosis:
====================
1) Hypertension 
2) Benign prostatic hypertrophy
3) Gastro esophageal reflux

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___ 
___.

WHY WAS I IN THE HOSPITAL?
-You were admitted for abdominal pain

WHAT HAPPENED TO ME IN THE HOSPITAL?
-We had the ERCP doctors ___ who did not want to take you 
for ERCP
-The infectious disease doctors started ___ on antibiotics
-You were found to have a clot in one of the veins in your liver 
and were started on blood thinner

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
-Continue to take all your medicines and keep your appointments.

We wish you the best!

Sincerely,
Your ___ Team

 
Followup Instructions:
___